US05708032
2-(3,4,4-trifluoro-1-oxo-3-butenyl)amino-4,6-dimethoxy-pyrimidine
To an ice-cooled stirred suspension of 2-amino-4,6-dimethoxypyrimidine (1.55 g, 10 mmol) in dichloromethane (50 mL) and potassinm carbonate (2.76 g, 20 mmol) in water (20 mL) was added 3,4,4-trifluoro-3-butenoyl chloride (3.17 g, 20 mmol). The reaction mixture was stirred in cold for 10 min and at r.t. for 15 min. The organic layer was washed with 3N HCl (2×25 mL), saturated sodium bicarbonate (25 mL) and brine, and dried. Evaporation of the solvent gave 0.296 g (10%) of the title compound as a white solid. m.p. 127°-130° C.

reactant | 2-amino-4,6-dimethoxypyrimidine | 10 mmol, 1.55 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
reactant | carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O
reactant | 3,4,4-trifluoro-3-butenoyl chloride | 20 mmol, 3.17 g | FC(CC(=O)Cl)=C(F)F | C4H2ClF3O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | 2-(3,4,4-trifluoro-1-oxo-3-butenyl)amino-4,6-dimethoxy-pyrimidine | 0.296 g, 10% | FC(CC(=O)NC1=NC(=CC(=N1)OC)OC)=C(F)F | C10H10F3N3O3
